US03950333
Reaction of N-(3-pyrazolylmethyl)ethylenediamine with S-methyl-N-nitroisothiourea by the procedure of Example 2(ii) gives N-nitro-N'-[2-(3-pyrazolylmethylamino)-ethyl]guanidine, and in the procedure of Example 2(iii) gives N-methyl-N'-[2-(3-pyrazolylmethylamino)ethyl]-N"-nitroguanidine.

reactant | N-(3-pyrazolylmethyl)ethylenediamine | N1N=C(C=C1)CNCCN | C6H12N4
reactant | S-methyl-N-nitroisothiourea | CSC(N[N+](=O)[O-])=N | C2H5N3O2S
product | N-nitro-N'-[2-(3-pyrazolylmethylamino)-ethyl]guanidine | [N+](=O)([O-])NC(=N)NCCNCC1=NNC=C1 | C7H13N7O2
